US07098226B2
1-Acetylamino-1-[2-(1-adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 10-1)
Pyridine (2.0 ml) and acetic anhydride (1.0 ml) were added to 1-[2-(1-adamantyl)ethyl]-1-amino-3-[3-(4-pyridyl)propyl]urea dihydrochloride (Compound No. 3-3) (0.20 g, 0.47 mmol) at room temperature, and the mixture was stirred for 15 minutes. The solvent was evaporated under reduced pressure from the reaction mixture, and the residue was distributed with ethyl acetate (10 ml) and water (10 ml). The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution (10 ml) and saturated brine (10 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give 0.11 g (58%) of the titled compound.

reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-[2-(1-adamantyl)ethyl]-1-amino-3-[3-(4-pyridyl)propyl]urea dihydrochloride | Cl.Cl.C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)N
solvent | Pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetylamino-1-[2-(1-adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]urea | 0.11 g, 58% | C(C)(=O)NN(C(=O)NCCCC1=CC=NC=C1)CCC12CC3CC(CC(C1)C3)C2 | C23H34N4O2
